US07071175B1
To a stirred solution of 6-tert-butoxycarbonylamino-nicotinic acid ethyl ester (3.50 g, 13.1 mmol) in THF (20 mL) under nitrogen was added LiAlH4 (0.91 g, 24.0 mmol) in THF (20 mL) over a period of 2 h. The reaction mixture was stirred for 6 h, then NH4Cl (sat.) was added (carefully) until neutral solution. The mixture was filtered and concentrated under reduced pressure to give (5-hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (2.00 g 68%).

reactant | 6-tert-butoxycarbonylamino-nicotinic acid ethyl ester | 13.1 mmol, 3.50 g | C(C)OC(C1=CN=C(C=C1)NC(=O)OC(C)(C)C)=O | C13H18N2O4
reactant | LiAlH4 | 24.0 mmol, 0.91 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (5-hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 2.00 g, 68% | C(C)(C)(C)OC(NC1=NC=C(C=C1)CO)=O | C11H16N2O3
